US07091199B1
Preparation of [2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-thiophen-2-ylmethyl-amine (Scheme I, Compound 1)
The title compound is prepared from 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole, potassium carbonate, C-Thiophen-2-yl-methylamine and acetonitrile essentially as described above in example 18 except that the column is eluted using a graded solvent mixture of 40% ethyl acetate in heptane, to 100% ethyl acetate. Purity by LC/MS (APCI)=100%, [M+H]+=357.

reactant | 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole | BrCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C13H10BrNO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | C-Thiophen-2-yl-methylamine | S1C(=CC=C1)CN | C5H7NS
solvent | acetonitrile | C(C)#N | C2H3N
product | [2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-thiophen-2-ylmethyl-amine | O1N=C(C2=C1C=CS2)C=2C=C(OCCNCC=1SC=CC1)C=CC2 | C18H16N2O2S2
